US08022068B2
N-{(R)-2-[(2S,4R,5R)-4-[4-((S)-3-Methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-1-methyl-ethyl}-acetamide
To a solution of 1.0 mmol of (R and S)-2-[(2S,4R,5R)-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-1-methyl-ethylamine, 4.0 mmol of Et3N in 25 ml of CH2Cl2 are added 2.0 mmol of acetyl chloride at 0° C. and the resulting mixture is stirred for 1 h. The reaction mixture is diluted with water and extracted with CH2Cl2. The organic phases are combined, dried over Na2SO4 and concentrated under reduced pressure. The resulting diastereomeric mixture is separated by flash chromatography (SiO2 60 F) to afford:

reactant | 2-[(2S,4R,5R)-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-1-methyl-ethylamine | COC[C@@H](COCC1=CC=C(C=C1)[C@H]1C[C@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)CC(C)N)C | C40H57N3O7S
reactant | Et3N | 4.0 mmol | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 2.0 mmol | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-{(R)-2-[(2S,4R,5R)-4-[4-((S)-3-Methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-1-methyl-ethyl}-acetamide | COC[C@@H](COCC1=CC=C(C=C1)[C@H]1C[C@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)C[C@@H](C)NC(C)=O)C | C42H59N3O8S
